US06515124B2
A solution of 1H-indole-6-carboxylic acid methyl ester (prepared by the literature method: Brown, F. J.; Cronk, L. A.; Aharony, D.; Snyder, D. W. J. Med. Chem. 1992, 35, 2419-39; 4.55 g, 26.0 mmol), di-tert-butyl dicarbonate (6.00 g, 27.5 mmol) and N,N-dimethylaminopyridine (0.50 g, 4.1 mmol) in acetonitrile (200 mL) was stirred overnight at room temperature. Silica gel was added and the solvent was evaporated. The residue was chromatographed over silica gel (10% ethyl acetate/hexanes) to give 6.33 g (89% yield) of 1-[(1,1-dimethylethoxy)carbonyl]-1H-indole-6-carboxylic acid methyl ester as a colorless liquid.

reactant | 1H-indole-6-carboxylic acid methyl ester | COC(=O)C1=CC=C2C=CNC2=C1 | C10H9NO2
reactant | di-tert-butyl dicarbonate | 27.5 mmol, 6.00 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | acetonitrile | 200 mL | C(C)#N | C2H3N
product | 1-[(1,1-dimethylethoxy)carbonyl]-1H-indole-6-carboxylic acid methyl ester | 6.33 g, 89% yield | COC(=O)C1=CC=C2C=CN(C2=C1)C(=O)OC(C)(C)C | C15H17NO4
